US08686024B2
(1) Synthesis of 2-(di-n-propylaminocarbonyl)-5-methoxyindole
To a solution of 5-methoxyindole-2-carboxylic acid (500 mg, 2.62 mmol) in 13 mL of N,N-dimethylformamide was added di-n-propylamine (1.07 mL, 7.8 mmol) and HATU (1.09 g, 2.88 mmol) at 0° C. After the reaction mixture was stirred at room temperature for 12 h, the reaction mixture was diluted with diethyl ether, and washed with water and brine, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography to obtain the title compound (0.53 g, 74%).

reactant | 5-methoxyindole-2-carboxylic acid | 2.62 mmol, 500 mg | COC=1C=C2C=C(NC2=CC1)C(=O)O | C10H9NO3
reactant | di-n-propylamine | 7.8 mmol, 1.07 mL | C(CC)NCCC | C6H15N
reactant | HATU | 2.88 mmol, 1.09 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | N,N-dimethylformamide | 13 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(di-n-propylaminocarbonyl)-5-methoxyindole | 0.53 g, 74% | C(CC)N(C(=O)C=1NC2=CC=C(C=C2C1)OC)CCC | C16H22N2O2
